US04574153
(B) 2-[3-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-4-pentenyl]-1,3-dioxolane
A solution of α-ethenyl-1,3-dioxolane-2-propanol (49.4 g, 315 mmole) in dichloromethane (175 ml) was treated sequentially with dimethylaminopyridine (5.72 g, 47 mmole) and triethylamine (52.8 ml, 380 mmole) followed by (dropwise) a solution of t-butylchlorodiphenylsilane (89.5 g, 332 mmole) in dimethylformamide (150 ml). The reaction was stirred under argon for 48 hours (25° C.), poured into 2.5 L of ice water and extracted with ethyl acetate (1.2 L). The organic extracts were wsashed with water (2×1 L), brine (1 L), dried (sodium sulfate), filtered, and concentrated in vacuo to 130 g of viscous yellow oil. The crude product was dissolved in ether, filtered from a small amount of suspended material, concentrated in vacuo, and chromatographed (Waters, Prep 500 L.C., 10% ethyl acetate:hexane) to afford 106 g of the title compound.

reactant | α-ethenyl-1,3-dioxolane-2-propanol | 315 mmole, 49.4 g | C(=C)C(CCC1OCCO1)O | C8H14O3
reactant | dimethylaminopyridine | 47 mmole, 5.72 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 380 mmole, 52.8 ml | C(C)N(CC)CC | C6H15N
reactant | t-butylchlorodiphenylsilane | 332 mmole, 89.5 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dichloromethane | 175 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-[3-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-4-pentenyl]-1,3-dioxolane | 106 g | CC(C)(C)[Si](OC(CCC1OCCO1)C=C)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H32O3Si
